US07799797B2
Step 3 (6-Benzenesulfonyl-naphthalen-1-ylmethyl)-methyl-carbamic acid tert-butyl ester
A mixture of 0.26 gram (0.89 mmole) 6-benzenesulfonyl-naphthalene-1-carbonitrile, 0.39 g (1.8 mmole) di-tert-butyl dicarbonate and 0.022 g (0.092 mmole) nickel chloride hexahydrate in 8 mL methanol was cooled to 0° C. Solid sodium borohydride (0.235 g, 6.2 mmole) was added in portions over 35 minutes. The reaction mixture was stirred at 23° C. for two hours. To the mixture was added 3 drops of diethylenetriamine. The mixture was stirred at 23° C. for 30 minutes, then was concentrated under reduced pressure. The residue was partitioned between ethyl acetate and saturated sodium bicarbonate. The organic phase was dried (magnesium sulfate) and concentrated under reduced pressure. The resulting crude (6-benzenesulfonyl-naphthalen-1-ylmethyl)-carbamic acid tert-butyl ester was dissolved in 3 mL THF and added dropwise to a mixture of 0.043 g (1.07 mmole) 60% sodium hydride and 0.13 mL (0.92 mmole) iodomethane in 3 mL THF. The reaction mixture was stirred at 23° C. for 18 hours, then another 0.025 g 60% sodium hydride and 5 drops iodomethane were added. The mixture was stirred for an additional 20 hours, then another 0.03 g of 60% sodium hydride and 6 drops iodomethane were added. After stirring for an additional 3 days, the mixture was diluted with 10 mL diethyl ether and washed with water. The organic phase was dried (magnesium sulfate) and concentrated under reduced pressure. The residue was subjected to column chromatography over silica gel 230-400 mesh eluting with a gradient of 2-50% ethyl acetate in hexane. The title compound was obtained as a colorless foam, 0.25 gram (68%). NMR (CDCl3) ppm δ: 8.67 (d, 1H, J=1.82 Hz), 8.27, (br s, 1H), 8.01 (dd, 2H, J=1.36 Hz, J=4.51 Hz), 7.91 (m, 3H), 7.52 (m, 5H), 4.88 (s, 2H), 2.73 (br s, 3H), 1.49 (s, 9H).

reactant | 6-benzenesulfonyl-naphthalene-1-carbonitrile | 0.89 mmole, 0.26 gram | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2C=CC=C(C2=CC1)C#N | C17H11NO2S
reactant | di-tert-butyl dicarbonate | 1.8 mmole, 0.39 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium borohydride | 6.2 mmole, 0.235 g | [BH4-].[Na+]
reactant | sodium hydride | 1.07 mmole, 0.043 g | [H-].[Na+]
reactant | iodomethane | 0.92 mmole, 0.13 mL | IC | CH3I
reactant | sodium hydride | 0.025 g | [H-].[Na+]
reactant | sodium hydride | 0.03 g | [H-].[Na+]
solvent | methanol | 8 mL | CO | CH4O
catalyst | diethylenetriamine | 3 drops | NCCNCCN | C4H13N3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | iodomethane | 5 drops | IC | CH3I
catalyst | iodomethane | 6 drops | IC | CH3I
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
catalyst | nickel chloride hexahydrate | 0.092 mmole, 0.022 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | (6-Benzenesulfonyl-naphthalen-1-ylmethyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CC1=CC=CC2=CC(=CC=C12)S(=O)(=O)C1=CC=CC=C1)=O | C23H25NO4S
